US07943619B2
Dimethyl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amine
3-Iodo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine (500 mg, 1.3 mmol) was dissolved in an ethanolic solution of dimethylamine (7.5 mL of a 33% solution, excess). After addition of copper(I) bromide (219 mg, 1.5 mmol) the mixture was stirred for 72 h at room temperature followed by heating to 50° C. for 3 h. Then the solvent was evaporated and the residue was stirred with ethyl acetate and saturated aqueous Seignette salt solution. The organic phase was dried with sodium sulfate and evaporated. Chromatography (SiO2, heptane/ethyl acetate=100:0 to 10:90) afforded the title compound as a light yellow oil (30 mg, 8%). MS: m/e=311.1 [M+H]+.

reactant | 3-Iodo-6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazine | 1.3 mmol, 500 mg | IC=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C15H12IN3O2
reactant | dimethylamine | CNC | C2H7N
catalyst | copper(I) bromide | 1.5 mmol, 219 mg | [Cu]Br
product | Dimethyl-[6-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridazin-3-yl]-amine | 30 mg, 8% | CN(C=1N=NC(=CC1)OCC=1C(=NOC1C)C1=CC=CC=C1)C | C17H18N4O2
